US06630495B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-furamide
To a mixture of (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine (1 mmol) in tetrahydrofuran (5 ml) was added triethylamine (1 mmol) at room temperature and the mixture was stirred at room temperature for 1.5 hour. The mixture was added to a solution of 2-furoyl chloride (1 mmol) in tetrahydrofuran (5 ml) at room temperature and left to stir at room temperature overnight. The mixture was evaporated to dryness and the residue washed with water. The solid was filtered, washed with diethyl ether/light petroleum (b.p. 60-80° C.) and dried to give the title product, 1H N.M.R. (CDCl3) δ (ppm) 4.9 (2H, d), 6.55 (1H, m), 7.2 (1H, m), 7.5 (1H, s), 7.8 (1H, br.s), 8.0 (1H, s) and 8,8 (1H, s).

reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine | 1 mmol | ClC=1C(=NC=C(C1)C(F)(F)F)CN | C7H6ClF3N2
reactant | triethylamine | 1 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 1 mmol | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-2-furamide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(=O)C=1OC=CC1 | C12H8ClF3N2O2
